US04515727
A solution of 300 mg of 4,5,8Z-eicosatrienoic acid was treated with 0.52 ml of a 20% solution of tetramethylammonium hydroxide in methanol. After stirring for 5 minutes at room temperature the methanol was evaporated under reduced pressure at 30 C. and 5 ml of dimethyl formamide was then added. The resulting suspension was stirred and treated with 0.25 g of methyl iodide. After 30 minutes at room temperature the reaction mixture was diluted with 30 ml of water and extracted with 100 ml of ether. The ethereal solution was washed with water and brine and then dried over sodium sulfate. Evaporation of the ether gave methyl 4,5,8Z-eicosatrienoate.

reactant | 4,5,8Z-eicosatrienoic acid | 300 mg | C(CCC=C=CC\C=C/CCCCCCCCCCC)(=O)O | C20H34O2
reactant | tetramethylammonium hydroxide | [OH-].C[N+](C)(C)C
solvent | methanol | CO | CH4O
product | methyl 4,5,8Z-eicosatrienoate | C(CCC=C=CC\C=C/CCCCCCCCCCC)(=O)OC | C21H36O2
